US09290517B2
Step A: tert-butyl 4-((4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)-hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)ethynyl)piperidine-1-carboxylate
To a round bottom flask fitted with a reflux condenser under a nitrogen atmosphere was added 5-(4-bromophenyl)-2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (436 mg, 0.625 mmol), tert-butyl 4-ethynylpiperidine-1-carboxylate (157 mg, 0.750 mmol), CuI (9.5 mg, 0.049 mmol), and Pd(PPh3)2Cl2 (70 mg, 0.100 mmol). Then triethylamine (4.0 mL) was added. The reaction mixture was cooled to −78°, evacuated and placed under an inert nitrogen atmosphere. Then the mixture was warmed to room temperature, and heated to 50° C. for 17 h. The mixture was allowed to cool to room temperature, and then filtered through Celite™ and rinsed with ethyl acetate until the filtrate was colorless. The filtrate was concentrated under reduced pressure. Flash silica gel chromatography of the resulting residue utilizing a Biotage™ 50 G SNAP cartridge and employing a linear gradient: 0-30% EtOAc in 1:1 Hexane/DCM over 20 column volumes afforded the desired product as a clear, colorless oil following concentration under reduced pressure. LC-MS: calculated for C42H61ClN4O7Si2 824.38, observed m/e: 825.60 (M+H)+ (Rt 3.32/4 min)

reactant | 5-(4-bromophenyl)-2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.625 mmol, 436 mg | BrC1=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C)Cl | C30H43BrClN3O5Si2
reactant | tert-butyl 4-ethynylpiperidine-1-carboxylate | 0.750 mmol, 157 mg | C(#C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H19NO2
catalyst | CuI | 0.049 mmol, 9.5 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.100 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl 4-((4-(2-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)-hexahydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)phenyl)ethynyl)piperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C#CC1CCN(CC1)C(=O)OC(C)(C)C)N2)COCC[Si](C)(C)C | C42H61ClN4O7Si2
